US03952031
2β-Acetylthio-3α-hydroxy-5α-pregnane-11,20-dione
2α,3α-Epoxy-5α-pregnane-11,20-dione (450 mg.) in dry ether (4 ml.) and thioacetic acid (1 ml.) was treated with BF3 etherate (2 drops). The resulting yellow solution was stirred at room temperature for 20 minutes. The solution was partitioned between ethyl acetate (20 ml.) and water (20 ml.) and the aqueous layer was extracted with more ethyl acetate (20 ml.). The combined organic extracts were washed with water (2 × 20 ml.) and dried over sodium sulphate and evaporated to a yellow oil which was purified by preparative t.l.c., in ethyl acetate/petroleum ether (1:1) to give the title compound as a pale yellow foam. [α]D + 93° (c 0.56); Rf 0.15; N.M.R.:-7.65τ (CH3COS--); 6.16τ (2-- and 3--H).

reactant | 2α,3α-Epoxy-5α-pregnane-11,20-dione | 450 mg | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]1(C2)C)=O)C | C21H30O3
reactant | BF3 | B(F)(F)F | BF3
reactant | thioacetic acid | 1 ml | C(C)(=S)O | C2H4OS
solvent | ether | 4 ml | CCOCC | C4H10O
product | 2β-Acetylthio-3α-hydroxy-5α-pregnane-11,20-dione | C(C)(=O)S[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(C1)C)=O)C)O | C23H34O4S
